US08133884B2
Preparation of 13-cyclohexyl-6-(1-cyclopropyl-4-(((2R,6S)-2,6-dimethyl-4-morpholinyl)carbonyl)-3-isopropyl-1H-pyrazol-5-yl)-N-(isopropylsulfonyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxamide
HATU (65.0 mg, 0.171 mmol) was added to a stirring solution of 5-(13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1-cyclopropyl-3-isopropyl-1H-pyrazole-4-carboxylic acid (78 mg, 0.114 mmol), cis-2,6-dimethylmorpholine (28 μL, 0.23 mmol), DIEA (80 μL, 0.456 mmol) in DMF (1 mL) at room temperature. The reaction was allowed to stir for 2 hours. The reaction was purified by preparative reverse phase HPLC on a C18 column using a TFA buffered H2O/CH3CN gradient, and concentrated to give the titled compound (28 mg, 0.035 mmol, 31% yield) consistent by LCMS and NMR, with sufficient purity by HPLC.

reactant | HATU | 0.171 mmol, 65.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(13-cyclohexyl-10-((isopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepin-6-yl)-1-cyclopropyl-3-isopropyl-1H-pyrazole-4-carboxylic acid | 0.114 mmol, 78 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)O)C=C(C=C1)OC)C(NS(=O)(=O)C(C)C)=O | C38H44N4O6S
reactant | cis-2,6-dimethylmorpholine | 0.23 mmol, 28 μL | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | DIEA | 0.456 mmol, 80 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 13-cyclohexyl-6-(1-cyclopropyl-4-(((2R,6S)-2,6-dimethyl-4-morpholinyl)carbonyl)-3-isopropyl-1H-pyrazol-5-yl)-N-(isopropylsulfonyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 0.035 mmol, 28 mg, 31% yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C2=C(C(=NN2C2CC2)C(C)C)C(=O)N2C[C@H](O[C@H](C2)C)C)C=C(C=C1)OC)C(=O)NS(=O)(=O)C(C)C | C44H55N5O6S
